Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
SOB
 
Major Surgical or Invasive Procedure:
Thoracentesis with removal of 3L pleural fluid

 
History of Present Illness:
___ F with advanced dementia, recent admissions for UTI and
c.diff presenting with worsening altered mental status, 
decreased
PO intake and c/f c.diff and UTI.

Pt unable to provide any history due to advanced dementia and
altered mental status.  History obtained from pt's son and HCP
and nursing home notes.  Pt reported was in her usual state of
healthy until 4 days prior to admission when she had an
unwitnessed fall.  Since then, she has had loss of appetite,
lethargy and weakness.  She has also had recurrent loose stools
which have smelled "like c.diff."

Of note, pt with recent hospitalization in ___ for c.diff
diarrhea for which she completed a course of PO vanc (end date:
___.  Her diarrhea reported resolved with this tx.

On presentation to the ED, VS: 101.1, 65, 131/74, 91% on RA
Exam notable for AAOx1, otherwise fairly unremarkable
Labs notable for WBC: 11.3, wnl Chem 7/LFT's, Dirty UA, C.diff
positive.
CT head showing no e/o fracture or ICH, but anterior
dislocation/subluxation of TMJ which may be position, chronic
microvascular changes.  CT c-spine showing degenerative changes
but no acute changes.
CXR showing subtle bibasilar opacities that may be atelectasis 
or
aspiration, difficult to exclude infectious processes
She received CTX/azithro followed by Cefepime.
Admitted to medicine for further w/u and management of altered
mental status, likely UTI and C.diff colitis.

ROS: Full 10-point ROS reviewed and is negative except as noted
above.

 
Past Medical History:
-Prior Angina, presumed CAD no intervention
-Anxiety
-Dementia
-Falls
-Macular Degeneration/legally blind
 
Social History:
___
Family History:
diabetes and heart disease
 
Physical Exam:
DISCHARGE PHYSICAL EXAM:
VITALS: 98.0Axillary 104 / 50 88 18 96 RA 
GENERAL: AOx1, laying in bed, intermittently agitated, yelling 
"leave me alone"
EYES: no scleral icterus, no conjunctival injection
ENT: MMM, clear OP, normal hearing
NECK: Supple, no appreciable LAD
RESP: CTA b/l, no w/r/r, non-labored breathing
CV: RRR, no m/r/g
GI: Soft, non-tender, non-distended, normoactive BS
GU: no foley
EXT: wwp, no edema
SKIN: no lesions, no rashes
NEURO: Alert, oriented to name only ___ son this is baseline),
answers questions, moving all extremities purposefully
PSYCH: mildly agitated

 
Pertinent Results:
ADMISSION LABS:
___ 07:38PM BLOOD WBC-7.7 RBC-2.78* Hgb-8.4* Hct-26.6* 
MCV-96 MCH-30.2 MCHC-31.6* RDW-23.2* RDWSD-77.0* Plt ___
___ 07:38PM BLOOD Neuts-59.9 ___ Monos-6.2 Eos-1.3 
Baso-0.6 Im ___ AbsNeut-4.64 AbsLymp-2.35 AbsMono-0.48 
AbsEos-0.10 AbsBaso-0.05
___ 07:38PM BLOOD ___ PTT-29.1 ___
___ 07:38PM BLOOD Glucose-147* UreaN-20 Creat-1.2* Na-137 
K-4.2 Cl-100 HCO3-23 AnGap-14
___ 05:11AM BLOOD Calcium-8.9 Phos-3.0 Mg-2.0

DISCHARGE LABS:
___ 05:44AM BLOOD WBC-6.9 RBC-2.50* Hgb-7.6* Hct-24.5* 
MCV-98 MCH-30.4 MCHC-31.0* RDW-23.5* RDWSD-80.4* Plt ___
___ 05:44AM BLOOD Plt ___
___ 05:01AM BLOOD Glucose-234* UreaN-31* Creat-1.4* Na-134* 
K-4.2 Cl-103 HCO3-21* AnGap-10
___ 05:01AM BLOOD Calcium-8.8 Phos-3.2 Mg-2.1

PLEURAL FLUID STUDIES:
___ 10:02AM PLEURAL TNC-754* ___ Polys-2* Lymphs-17* 
Monos-22* Eos-1* Other-58*
___ 10:02AM PLEURAL TotProt-4.2 Glucose-175 LD(LDH)-646 
Albumin-2.6 ___ Misc-PND

IMAGING:
========
CTA chest (___) ___:
1. Large left pleural effusion with mild increased density 
within
the left pleural fluid causing near complete collapse of the 
left
lower lobe and significant collapse of the left upper lobe
respectively.  Mass-effect with inversion of the left
hemidiaphragm and mild shift of the mediastinum to the right 
side
are also noted.  No enhancement of the left-sided pleura to
suggest an associated empyema.
2. Small right pleural effusion noted.
3.  There are nonenlarged numerous pretracheal, subcarinal and
right hilar lymph nodes.  Patent pulmonary arterial branches,
better evaluated on the right relative to the left side.
4. No consolidation in the right lung or discrete solid 
pulmonary
nodules identified.
5. Severe hepatic steatosis and small volume ascites also noted
in
the upper abdomen.
      
RECOMMENDATION(S):  If not already performed, a left sided
thoracentesis should be considered to evaluate etiology for the
large
left pleural effusion.

CXR (___) ___:
IMPRESSION:  Diffuse opacification of the great portion of the
left
lung, which may be due to a large effusion, especially given
slight
mediastinal shift to the right.  However correlate if patient 
has
had
any history of lung resection that could cause diffuse opacity.
Assessment for infiltrate is limited in the left lung.  Consider
correlation with chest CT.  Right lung relatively clear.

CXR ___:
In comparison with the study of ___, there has been a 
thoracentesis on 
the left with removal of a large amount of pleural fluid.  No 
evidence of post 
procedure pneumothorax. 
Cardiomediastinal silhouette is at the upper limits of normal in 
size.  Some 
indistinctness of pulmonary vessels could reflect mild elevation 
of pulmonary 
venous pressure.  No evidence of acute focal pneumonia. 

 
Brief Hospital Course:
___ year old female patient with history of ovarian cancer on 
active chemotherapy, last dose on ___, visiting from 
___ and gets her care at ___, 
presents with dyspnea, and large pleural effusion with likely
left lung collapse.

# Pleural effusion
# Left lobar collapse: presents with new dyspnea and hypoxemia, 
and large left pleural effusion with lobar collapse.  She was 
otherwise stable from a respiratory standpoint and saturating 
well on room air.  Thoracentesis was done on ___ as pt had 
been on Xarelto and needed to wash this out.  Cell 
counts/chemistries suggestive of likely malignant effusion given 
high number of RBC's.  Initial cytology showing lots of atypical 
cells but final pathology is pending on discharge.  ___ 
CXR did not show any e/o PTX.

# Acute kidney injury: unclear baseline creatinine.  Cr remained 
stable at 1.2-1.4.

# Anemia: hemoglobin 8.4, unknown baseline, has been stable in 
the ___ during admission.
 
# Ovarian cancer: gets care in ___, will continue to 
follow-up there.
 
# Hypertension: Continued home amlodipine, lisinopril

# Diabetes with neuropathy: Held PO hypoglycemics, pt placed on 
ISS.  Continued gabapentin for neuropathy.

# Anxiety: Continued home sertraline

Billing: greater than 30 minutes spent on discharge counseling 
and coordination of care.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Pantoprazole 40 mg PO Q12H 
3. Sertraline 100 mg PO DAILY 
4. MetFORMIN (Glucophage) 500 mg PO BID 
5. amLODIPine 5 mg PO DAILY 
6. Lisinopril 10 mg PO DAILY 
7. Gabapentin 300 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*30 Tablet Refills:*0 
2.  Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*30 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN BREAKTHROUGH 
PAIN 
RX *oxycodone 5 mg 1 tablet(s) by mouth every ___ hours Disp 
#*12 Tablet Refills:*0 
4.  amLODIPine 5 mg PO DAILY  
5.  Apixaban 5 mg PO BID  
6.  Gabapentin 300 mg PO QHS  
7.  Lisinopril 10 mg PO DAILY  
8.  MetFORMIN (Glucophage) 500 mg PO BID  
9.  Pantoprazole 40 mg PO Q12H  
10.  Sertraline 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L plural effusion
History of ovarian ca

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came in with shortness of breath.  We did an x-ray which 
showed that you had fluid in your left lung.  We drained the 
fluid via a procedure called a thoracentesis and you tolerated 
this procedure well with no obvious post-procedural 
complications.

Please return if you have worsening shortness of breath, chest 
pain, coughing up blood, or if you have any other concerns.

It was a pleasure taking care of you at ___ 
___.
 
Followup Instructions:
___